US08008293B2
Synthesis of (2R,6S)-6-(3,4,5-trifluorophenyl)piperidine-2-carboxylic acid methyl ester
Under a nitrogen atmosphere and at −78° C., 3,4,5-trifluorophenyl magnesium bromide (prepared from 1-bromo-3,4,5-trifluorobenzene (11.7 g) and magnesium (1.48 g) according to the method described in Org. Synth., 2001, 79, 176) was added to a THF (140 mL) solution of (R)-6-oxopiperidine-1,2-dicarboxylic acid 1-tertiery butyl ester (13.0 g) over 30 minutes. The reaction solution was stirred for 2 hours from −78° C. to −10° C. Afterwards, at −10° C., the resultant reaction was quenched with saturated ammonium chloride aqueous solution. Water was added to the reaction solution, and extraction with ethyl acetate was conducted. After drying the resulting extraction solution with magnesium sulfate, concentration under a vacuum was conducted. A 4 N hydrochloric acid ethyl acetate solution (150 mL) was added at room temperature to an ethyl acetate (150 mL) solution of the residue. The resultant reaction solution was stirred for 9 hours at room temperature. The reaction solution was concentrated under a vacuum, and after making the residue basic by adding saturated sodium bicarbonate solution, chloroform was added, and stirring was continued for 2 hours at room temperature. The organic layer was partitioned, and after drying with magnesium sulfate, the resultant was concentrated under a vacuum. 10% palladium on carbon (700 mg) was added to a methanol (200 mL) solution of the residue, and the resultant reaction solution was stirred for 9 hours under a hydrogen atmosphere and at room temperature. The reaction solution was filtered over celite, and the filtrate was concentrated under a vacuum. By purifying the residue by silica gel column chromatography (eluting solvent:heptane-ethyl acetate system), 5.47 g of the title compound was obtained. The physical property values are as follows.

reactant | 3,4,5-trifluorophenyl magnesium bromide | FC=1C=C(C=C(C1F)F)[Mg]Br
reactant | 1-bromo-3,4,5-trifluorobenzene | 11.7 g | BrC1=CC(=C(C(=C1)F)F)F | C6H2BrF3
reactant | magnesium | 1.48 g | [Mg] | Mg
reactant | (R)-6-oxopiperidine-1,2-dicarboxylic acid | 13.0 g | O=C1CCC[C@@H](N1C(=O)O)C(=O)O | C7H9NO5
solvent | THF | 140 mL | C1CCOC1 | C4H8O
product | (2R,6S)-6-(3,4,5-trifluorophenyl)piperidine-2-carboxylic acid methyl ester | 5.47 g | COC(=O)[C@@H]1N[C@@H](CCC1)C1=CC(=C(C(=C1)F)F)F | C13H14F3NO2
